US09259470B2
HCl/methanol (3N, 1.0 mL) was added at 5° C. to a solution of 1-(3-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)butyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (90.0 mg, 0.154 mmol) in methanol (3.0 mL). After being stirred at room temperature for 2 hours, the reaction mixture was adjusted to pH around 8-9 with saturated NaHCO3, extracted with dichloromethane, dried over Na2SO4 and concentrated. The residue was purified with prep-HPLC to afford 1-(1-(4-chloro-3-fluorophenyl)-3-hydroxybutyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (36 mg, 50% yield) as a solid. 1H NMR (500 MHz, (CD3)2SO) δ 10.92 (s, 1H), 8.41 (d, J=5.0 Hz, 1H), 7.95 (m, 1H), 7.58 (m, 1H), 7.46 (m, 1H), 7.30 (m, 1H), 7.23 (m, 1H), 7.10 (m, 1H), 7.07 (m, 1H), 6.87 (m, 1H), 6.14 (m, 1H), 4.70 (m, 1H), 3.97 (m, 1H), 3.89-3.87 (m, 2H), 3.41-3.33 (m, 2H), 2.47 (m, 1H), 2.06 (m, 1H), 1.86-1.84 (m, 2H), 1.56-1.52 (m, 2H), 1.12-1.09 (m, 3H); LCMS (ESI) m/z: 473.2 [M+H]+.

reactant | HCl methanol | 3N, 1.0 mL | Cl.CO
reactant | 1-(3-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)butyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 0.154 mmol, 90.0 mg | [Si](C)(C)(C(C)(C)C)OC(CC(C1=CC(=C(C=C1)Cl)F)N1C(C=C(C=C1)C1=NC(=NC=C1)NC1CCOCC1)=O)C | C30H40ClFN4O3Si
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 3.0 mL | CO | CH4O
product | 1-(1-(4-chloro-3-fluorophenyl)-3-hydroxybutyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 36 mg, 50% yield | ClC1=C(C=C(C=C1)C(CC(C)O)N1C(C=C(C=C1)C1=NC(=NC=C1)NC1CCOCC1)=O)F | C24H26ClFN4O3
